US07585886B2
A mixture of 174 mg of ethyl (4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)acetate and 3.0 ml of a THF-water (2:1) mixed solvent was mixed with 22 mg of lithium hydroxide and stirred at room temperature. After completion of the reaction, this was neutralized by adding 1 M hydrochloric acid. This was extracted with chloroform, dried with anhydrous sodium sulfate and then concentrated under a reduced pressure. The thus obtained residue was purified by a fractional high performance liquid chromatography (acetonitrile-water) and then treated with hydrochloric acid to obtain 31 mg of (4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)acetic acid hydrochloride as a colorless solid.

reactant | ethyl (4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)acetate | 174 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C34H36N2O4
reactant | lithium hydroxide | 22 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF water | 3.0 ml | C1CCOC1.O
product | (4-{[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}phenoxy)acetic acid hydrochloride | 31 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)C1=CC=C(OCC(=O)O)C=C1 | InChI=1S/C32H32N2O4.ClH/c1-22(28-13-7-11-23-10-5-6-12-29(23)28)33-18-26-19-34(20-30(26)24-8-3-2-4-9-24)32(37)25-14-16-27(17-15-25)38-21-31(35)36;/h2-17,22,26,30,33H,18-21H2,1H3,(H,35,36);1H/t22-,26+,30-;/m1./s1
